US07618961B2
Ethyl (2-{[(3,5-dichlorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 3,5-dichlorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (42.2 mg) with purity >90%. LCMS (pos) m/z 395.0, 397.0.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 3,5-dichlorobenzenesulfonyl chloride | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | Ethyl (2-{[(3,5-dichlorophenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C13H12Cl2N2O4S2
